* CLAMPER
* COD, TOR, JD
* ***************
* Ref: Online

V1 1 0 type=sin VO=0 VA=2.5 FREQ=100 TD=0 THETA=0
C1 2 1 47µ
D1 0 2 D
D2 2 0 D
R1 2 0 1k
.model D d

.op
.tran tstop=0.1 tstep=1p
.end

